US06946472B2
Preparation of 3-chloro-6-{2-[(3-{[2-(3-chloro-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-ylamino)-ethyl]-methyl-amino}-propyl)-methyl-amino]-ethylamino}-5,10-diaza-benzo[c]fluoren-7-one
In a similar manner to Example 4, this compound was obtained starting from toluene-4-sulfonic acid 3-chloro-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-yl ester (the compound of Reference Example 7c-1) and N,N′-bis-(2-amino-ethyl)-N,N′-dimethyl-propane-1,3-diamine. The desired product was obtained as a reddish powder.

reactant | toluene-4-sulfonic acid 3-chloro-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-yl ester | ClC=1C=CC2=C(N=C(C=3C(C=4C=CN=CC4C23)=O)OS(=O)(=O)C2=CC=C(C=C2)C)C1 | C22H13ClN2O4S
reactant | N,N′-bis-(2-amino-ethyl)-N,N′-dimethyl-propane-1,3-diamine | NCCN(CCCN(C)CCN)C | C9H24N4
product | 3-chloro-6-{2-[(3-{[2-(3-chloro-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-ylamino)-ethyl]-methyl-amino}-propyl)-methyl-amino]-ethylamino}-5,10-diaza-benzo[c]fluoren-7-one | ClC=1C=CC2=C(N=C(C=3C(C=4C=CN=CC4C23)=O)NCCN(C)CCCN(C)CCNC2=NC3=C(C=4C=5C=NC=CC5C(C24)=O)C=CC(=C3)Cl)C1 | C39H34Cl2N8O2
